US07101886B2
N-{4-[2-(4-1,2-BENZISOTHIAZOL-3-YL-PIPERAZIN-1-YL)-ETHYL]-2-METHYL-PHENYL}-ACETAMIDE
Starting from N-[4-(2-Chloro-ethyl)-2-methyl-phenyl]-acetamide (11.96 g, 56.5 mmol) and 3-piperazin-1-yl-benzo[d]isothiazole hydrochloride (16.58 g, 73.5 mmol), (N-{4-[2-(4-1,2-Benzisothiazol-3-yl-piperazin-1-yl)-ethyl]-2-methyl-phenyl}-acetamide was prepared according to the general method as outlined in Example 501. The titled product was obtained as an off-white solid, (19.04 g, 48.3 mmol). Yield=85%. 98.8% purity by HPLC; mp 176.5–178.° C.

reactant | N-[4-(2-Chloro-ethyl)-2-methyl-phenyl]-acetamide | 56.5 mmol, 11.96 g | ClCCC1=CC(=C(C=C1)NC(C)=O)C | C11H14ClNO
reactant | 3-piperazin-1-yl-benzo[d]isothiazole hydrochloride | 73.5 mmol, 16.58 g | Cl.N1(CCNCC1)C1=NSC2=C1C=CC=C2
product | N-{4-[2-(4-1,2-BENZISOTHIAZOL-3-YL-PIPERAZIN-1-YL)-ETHYL]-2-METHYL-PHENYL}-ACETAMIDE | S1N=C(C2=C1C=CC=C2)N2CCN(CC2)CCC2=CC(=C(C=C2)NC(C)=O)C | C22H26N4OS
